US04810713
α,α-Diphenyl-1-[3-(8-quinolinyloxy)propyl]-3-piperidinepropanenitrile hemihydrate
A mixture of α,α-diphenyl-3-piperidinepropanenitrile (8.12 g, 0.028 mole), 8-(3-chloropropoxy)quinoline (6.18 g, 0.028 mole), and potassium carbonate (5.53 g, 0.04 mole) was heated at reflux overnight in 350 ml of 1-butanol containing potassium iodide (0.3 g). The reaction was filtered and stripped to dryness on a rotary evaporator. The residue obtained was dissolved in chloroform and extracted with 5% sodium hydroxide and water. The chloroform layer was dried over anhydrous sodium sulfate, filtered, and solvent removed to give a dark red mass. This material was subjected to flash chromatography on a silica gel column using 10% methanol-ethyl acetate, 20% methanol-ethyl acetate, and 50% methanol-ethyl acetate for elution. Fractions of similar purity were combined and solvent was removed by rotary evaporator. The red black residue obtained was dried in vacuo at 80° C. overnight. This furnished 5.29 g (39%) of a dark black residue. 1H NMR (CDCl3): σ 8.9 (m, 1, proton ortho to N in ring), 7.9-8.1 (m, l, proton para to N in ring), 6.9-7.6 (m, 14, aromatics), 4.2 (t, 2, methylenes adjacent to oxygen atom), 1.1-2.7 (m, 16, aliphatic portons and 1H from 0.5 H2O).

reactant | α,α-diphenyl-3-piperidinepropanenitrile | 0.028 mole, 8.12 g | C1(=CC=CC=C1)C(C#N)(CC1CNCCC1)C1=CC=CC=C1 | C20H22N2
reactant | 8-(3-chloropropoxy)quinoline | 0.028 mole, 6.18 g | ClCCCOC=1C=CC=C2C=CC=NC12 | C12H12ClNO
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | α,α-Diphenyl-1-[3-(8-quinolinyloxy)propyl]-3-piperidinepropanenitrile hemihydrate | O.C1(=CC=CC=C1)C(C#N)(CC1CN(CCC1)CCCOC=1C=CC=C2C=CC=NC12)C1=CC=CC=C1.C1(=CC=CC=C1)C(C#N)(CC1CN(CCC1)CCCOC=1C=CC=C2C=CC=NC12)C1=CC=CC=C1 | InChI=1S/2C32H33N3O.H2O/c2*33-25-32(28-14-3-1-4-15-28,29-16-5-2-6-17-29)23-26-11-9-20-35(24-26)21-10-22-36-30-18-7-12-27-13-8-19-34-31(27)30;/h2*1-8,12-19,26H,9-11,20-24H2;1H2
